US05688795
A mixture of 2-amino-N,N-dimethylbenzamide (1.15 g, 6,97 mmol), prepared as in Example 22, potassium carbonate (1.44 g, 10.46 mmol) and 1-bromo-3-chloro-propane (0.7 mL, 7 mmol) in 10 mL of DMF was stirred at room temperature for 16 hours and then at 70° C. for an additional 4 hours. The mixture was poured into water and extracted with ethyl acetate (3×20 mL). The combined extract was washed with brine, dried (MgSO4) and concentrated to give 2-(3-chloropropyl)amino-N,N-dimethylbenzamide as a crude mixture.

reactant | 2-amino-N,N-dimethylbenzamide | 6,97 mmol, 1.15 g | NC1=C(C(=O)N(C)C)C=CC=C1 | C9H12N2O
reactant | potassium carbonate | 10.46 mmol, 1.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloro-propane | 7 mmol, 0.7 mL | BrCCCCl | C3H6BrCl
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(3-chloropropyl)amino-N,N-dimethylbenzamide | ClCCCNC1=C(C(=O)N(C)C)C=CC=C1 | C12H17ClN2O
